### PR TITLE
[Merged by Bors] - feat: Port data.fintype.sort

### PR DESCRIPTION
**Pull request by arienmalec**
Port of data.fintype.sort

No changes except docu fixes
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fintype/Sort.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
...
+theorem fin_sum_equiv_of_finset_inl (hm : s.card = m) (hn : sᶜ.card = n) (i : Fin m) :
+    finSumEquivOfFinset hm hn (Sum.inl i) = s.orderEmbOfFin hm i :=
+  rfl
+#align fin_sum_equiv_of_finset_inl fin_sum_equiv_of_finset_inl
+
+@[simp]
+theorem fin_sum_equiv_of_finset_inr (hm : s.card = m) (hn : sᶜ.card = n) (i : Fin n) :
+    finSumEquivOfFinset hm hn (Sum.inr i) = sᶜ.orderEmbOfFin hn i :=
+  rfl
+#align fin_sum_equiv_of_finset_inr fin_sum_equiv_of_finset_inr
```
Comment (ChrisHughes24) [inline Mathlib/Data/Fintype/Sort.lean:60]:
```suggestion
@[simp]
theorem finSumEquivOfFinset_inl (hm : s.card = m) (hn : sᶜ.card = n) (i : Fin m) :
    finSumEquivOfFinset hm hn (Sum.inl i) = s.orderEmbOfFin hm i :=
  rfl
#align fin_sum_equiv_of_finset_inl finSumEquivOfFinset_inl

@[simp]
theorem finSumEquivOfFinset_inr (hm : s.card = m) (hn : sᶜ.card = n) (i : Fin n) :
    finSumEquivOfFinset hm hn (Sum.inr i) = sᶜ.orderEmbOfFin hn i :=
  rfl
#align fin_sum_equiv_of_finset_inr finSumEquivOfFinset_inr
```
